US07390818B2
N,5-Dimethyl-1H-indole-2-amine dihydrochloride
5 g of 1-(4-methylphenyl)hydrazine hydrochloride are dissolved in water and then triethylamine is added until the salt has been neutralized. Extraction is carried out with AcOEt and then the extract is evaporated to dryness. The precipitate formed is dissolved in 30 ml of ether and then a solution of 4.6 ml of acetic anhydride dissolved in 30 ml of ether is added dropwise. The mixture is stirred at 0° C. for 15 minutes and then the precipitate formed is filtered off to produce 3 g of the expected compound.

reactant | 1-(4-methylphenyl)hydrazine hydrochloride | 5 g | Cl.CC1=CC=C(C=C1)NN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | N,5-Dimethyl-1H-indole-2-amine dihydrochloride | 3 g | Cl.Cl.CNC=1NC2=CC=C(C=C2C1)C | InChI=1S/C10H12N2.2ClH/c1-7-3-4-9-8(5-7)6-10(11-2)12-9;;/h3-6,11-12H,1-2H3;2*1H
